US07297816B2
(S)-3-(3-Bromo-4-fluoro-phenyl)-2-[4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid
The title compound was prepared from 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride and 4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid as in Example 1, Part C, followed by hydrolysis of the resulting methyl ester as in EXAMPLE 2, Part E. HPLC: RT=9.46 min. MS (ESI−): mass calcd. for C24H17BrClFN4O5S, 607.84; m/z found, 605/607 [M−H]−. 1H NMR (400 MHz, acetone-d6): 11.66 (s, 1H), 8.99-8.93 (m, 2H), 8.63-8.57 (m, 1H), 8.37-8.31 (m, 1H), 8.02-7.97 (m, 2H), 7.78-7.75 (m, 1H), 7.65-7.60 (m, 1H), 7.58-7.53 (m, 1H), 7.41-7.34 (m, 1H), 7.24-7.17 (m, 1H), 6.97 (dd, J=8.3, 1.6, 1H), 5.00-4.92 (m, 1H), 3.37-3.28 (m, 1H), 3.18-3.10 (m, 1H).

reactant | 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)F)Br)=O
reactant | 4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1 | C15H10ClN3O4S
product | (S)-3-(3-Bromo-4-fluoro-phenyl)-2-[4-chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid | BrC=1C=C(C=CC1F)C[C@@H](C(=O)O)NC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O | C24H17BrClFN4O5S
